US08912208B2
D. (4-{4-[6-(3-Chloro-phenylamino)-pyridazin-3-yl]-phenyl}-cyclohexyl)-acetic acid ethyl ester
To a suspension of {4-[4-(6-chloro-pyridazin-3-yl)-phenyl]-cyclohexyl}-acetic acid ethyl ester (2.0 g, 5.6 mmol, 1.0 equiv) in 40 Ml dioxane was added 3-chloroaniline (0.70 Ml, 6.7 mmol, 1.2 equiv) followed by 2 Ml 4 N HCl in dioxane. The mixture was then heated to 100° C. overnight. The reaction was partitioned between EtOAc and saturated bicarbonate solution, and the organic extracts were then washed with brine and dried. Removal of solvent in vacuo afforded the title compound: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.07-1.17 (m, 2 H) 1.21 (t, J=7.20 Hz, 3 H) 1.42-1.53 (m, 2 H) 1.86 (t, J=10.99 Hz, 4 H) 1.78-1.90 (m, 1 H) 2.18 (d, J=6.57 Hz, 2H) 2.47 (td, J=12.00, 3.03 Hz, 1 H) 4.08 (q, J=7.24 Hz, 2 H) 7.03 (d, J=7.58 Hz, 1 H) 7.26 (d, J=8.08 Hz, 3 H) 7.20-7.28 (m, 2 H) 7.45 (s, 1 H) 7.68 (d, J=9.35 Hz, 1 H) 7.84 (d, J=8.34 Hz, 2 H); (M+H)+ 450.2.

reactant | {4-[4-(6-chloro-pyridazin-3-yl)-phenyl]-cyclohexyl}-acetic acid ethyl ester | 5.6 mmol, 2.0 g, 1.0 equiv | C(C)OC(CC1CCC(CC1)C1=CC=C(C=C1)C=1N=NC(=CC1)Cl)=O | C20H23ClN2O2
reactant | 3-chloroaniline | 6.7 mmol, 1.2 equiv | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (4-{4-[6-(3-Chloro-phenylamino)-pyridazin-3-yl]-phenyl}-cyclohexyl)-acetic acid ethyl ester | C(C)OC(CC1CCC(CC1)C1=CC=C(C=C1)C=1N=NC(=CC1)NC1=CC(=CC=C1)Cl)=O | C26H28ClN3O2
